US07285616B2
(C) Preparation of Potassium Pentafluorobenzenesulfonate:
25 Grams (93.8 mmols) of pentafluorobenzenesulfonyl fluoride was charged in a flask, and 13.0 g (93.8 mmols) of potassium carbonate and 100 ml of water were added under cooling with ice, followed by stirring at room temperature for 9 hours. Then, 1.3 g (9.4 mmols) of potassium carbonate was further added and the mixture was stirred at 60° C. for 1 hour. A white solid produced was filtered off and purified by recrystallization with water. The resulting white solid was subjected to 19F-NMR measurement and it was confirmed that the resulting white solid was potassium pentafluorobenzenesulfonate (c).

reactant | pentafluorobenzenesulfonyl fluoride | 93.8 mmols | FC1=C(C(=C(C(=C1S(=O)(=O)F)F)F)F)F | C6F6O2S
reactant | potassium carbonate | 93.8 mmols, 13.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 9.4 mmols, 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 ml | O | H2O
product | Potassium Pentafluorobenzenesulfonate | FC1=C(C(=C(C(=C1S(=O)(=O)[O-])F)F)F)F.[K+] | InChI=1S/C6HF5O3S.K/c7-1-2(8)4(10)6(15(12,13)14)5(11)3(1)9;/h(H,12,13,14);/q;+1/p-1
